US07494992B2
Preparation 19: 2-methyl-3-[4-(phenylmethyl)piperazin-1-yl]quinoxaline
2-Chloro-3-methylquinoxaline (1.0 g, 5.6 mmol) and N-benzylpiperazine (2.9 ml, 16.8 mmol) were mixed and heated to 125° C. for 18 h. Saturated aqueous sodium hydrogen carbonate was added and the product was extracted with chloroform. The combined organic extracts were dried (Na2SO4) and concentrated in vacuo to give a dark red oil. The crude product was purified by flash chromatography using silica gel eluting with methanol:dichloromethane (15:85) to give the pure product as a red oil which solidified upon standing (1.63 g, 94%).

reactant | 2-Chloro-3-methylquinoxaline | 5.6 mmol, 1.0 g | ClC1=NC2=CC=CC=C2N=C1C | C9H7ClN2
reactant | N-benzylpiperazine | 16.8 mmol, 2.9 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-methyl-3-[4-(phenylmethyl)piperazin-1-yl]quinoxaline | CC1=NC2=CC=CC=C2N=C1N1CCN(CC1)CC1=CC=CC=C1 | C20H22N4
